US05155113
Preparation of 4-phenoxyacetyloxy-2-pyridone
A 1.86 ml quantity of phenoxyacetyl chloride was added to a suspension of 1.00 g of 4-hydroxy-2-pyridone in 30 ml of pyridine, and the mixture was stirred at room temperature for four hours. The reaction mixture was concentrated and the concentrate was washed with ethyl acetate, water and chloroform in this order, thereby producing 500 mg of the title compound in a yield of 23%.

reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-phenoxyacetyloxy-2-pyridone | 500 mg, yield of 23% | O(C1=CC=CC=C1)CC(=O)OC1=CC(NC=C1)=O | C13H11NO4
